US05459152
Sodium hydride (95%, 37.4 mg, 1.48 mmol) was added to a solution of 3-(pyridin-3-yl)-7-[6-(4-fluorophenyl)indol-3-ylcarbonyl]-1H,3H-pyrrolo[1,2-c]thiazole (0.50 g, 1.14 mmol), prepared according to the method of Example 28, in DMF (30 mL). The reaction mixture was stirred for 30 min. at ambient temperature, and then methyl acrylate (0.40 mL, 4.56 mmol) was added. The reaction mixture was poured into brine and extracted three times with ethyl acetate. The combined organic layers where dried over MgSO4, filtered, and concentrated in vacuo. 3-(Pyridin-3-yl)-7-[1-(2-carbomethoxyethyl)-6-(4-fluorophenyl)indol-3-ylcarbonyl]-1H,3H-pyrrolo[1,2-c]thiazole (190 mg, 32%) was obtained by flash chromatography on silica gel (5 g, 40%, then 60%, then 80% ethyl acetate, hexanes). 1H NMR (CDCl3, 300 MHz) δ2.93 (t, 2 H, J=6, 8 Hz), 3.68 (s, 3H), 4.53 (dd, 3H, J=6, 11 Hz), 4.7 (dd, 1H, J=2, 15 Hz), 6.38 (d, 1H, J=3 Hz), 6.43 (s, 1H), 6.78 (d, 1H, J=3 Hz), 7.15 (t, 2H, J=9, 10 Hz), 7.35 (dd, 1H, J=5, 8 Hz), 7.5 (dd, 2H, J=3, 10 Hz), 7.6-7.1 (m, 3H), 7.95 (s, 1H), 8.45 (dd, 1H, J=1, 9 Hz), 8.6-8.68 (m, 2H). MS (DCI/MH3) m/e 526 (M+H)+.

reactant | Sodium hydride | 1.48 mmol, 37.4 mg | [H-].[Na+]
reactant | 3-(pyridin-3-yl)-7-[6-(4-fluorophenyl)indol-3-ylcarbonyl]-1H,3H-pyrrolo[1,2-c]thiazole | 1.14 mmol, 0.50 g | N1=CC(=CC=C1)C1SCC=2N1C=CC2C(=O)C2=CNC1=CC(=CC=C21)C2=CC=C(C=C2)F | C26H18FN3OS
reactant | methyl acrylate | 4.56 mmol, 0.40 mL | C(C=C)(=O)OC | C4H6O2
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | brine | [Cl-].[Na+].O
product | 3-(Pyridin-3-yl)-7-[1-(2-carbomethoxyethyl)-6-(4-fluorophenyl)indol-3-ylcarbonyl]-1H,3H-pyrrolo[1,2-c]thiazole | 190 mg, 32% | N1=CC(=CC=C1)C1SCC=2N1C=CC2C(=O)C2=CN(C1=CC(=CC=C21)C2=CC=C(C=C2)F)CCC(=O)OC | C30H24FN3O3S
